US05872115
Step 2): A mixture of potassium phthalimide (0.21 g, 1.1 mmol) and 1-(2-chloroethyl)-4,5-diphenylimidazole (0.32 g, 1.1 mmol) in dry DMF (10 ml) was heated at 60°-70° C. for 6 hours. The reaction mixture was cooled, diluted with chloroform, poured into water and extracted with chloroform. The organic layer was dried (MgSO4) and concentrated. The residue was purified by column chromatography on silica gel (40% ethyl acetate in chloroform) to give 1-(2-phthalimidoethyl)-4,5-diphenylimidazole (73.0%).

reactant | potassium phthalimide | 1.1 mmol, 0.21 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | 1-(2-chloroethyl)-4,5-diphenylimidazole | 1.1 mmol, 0.32 g | ClCCN1C=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1 | C17H15ClN2
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-phthalimidoethyl)-4,5-diphenylimidazole | 73.0% | C1(C=2C(C(N1CCN1C=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)=O)=CC=CC2)=O | C25H19N3O2
